US05399291
In this example, a compound was prepared in essentially the same manner as that described in Example 7, except that 4.0 g (0.010 moles) of 5-butoxy-2,2,3,3,4,4-hexafluoropentyl trifluoromethanesulfonate (prepared essentially as in Example 2) was substituted for the 5-ethoxy-2,2,3,3,4,4-hexafluoropentyl trifluoromethanesulfonate to provide 2.82 g of 6-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)-2-hydroxynapthalene product.

reactant | 5-butoxy-2,2,3,3,4,4-hexafluoropentyl trifluoromethanesulfonate | 0.010 moles, 4.0 g | FC(S(=O)(=O)OCC(C(C(COCCCC)(F)F)(F)F)(F)F)(F)F | C10H13F9O4S
reactant | 5-ethoxy-2,2,3,3,4,4-hexafluoropentyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(C(C(COCC)(F)F)(F)F)(F)F)(F)F | C8H9F9O4S
product | 6-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)-2-hydroxynapthalene | 2.82 g | C(CCC)OCC(C(C(COC=1C=C2C=CC(=CC2=CC1)O)(F)F)(F)F)(F)F | C19H20F6O3
